US05347032
495.2 g of 68.7 wt % strength aqueous cyanoacetic acid, 1500 mL of isobutanol and 5 g of p-toluenesulfonic acid were heated to 80° C. in 3 h under a pressure of ca 270 mbar, and the water/isobutanol azeotrope was removed completely. Stirring was then continued for a further 14 h at a ratio of withdrawn to recycled material of 11:99, to give a transition temperature of 67° C. and a final temperature of 88° C. at 200 mbar. Excess isobutanol was distilled off after filtration and 529 g of crude isobutyl cyanoacetate (purity as measured by GC analysis: 90%) were obtained.

reactant | cyanoacetic acid | C(#N)CC(=O)O | C3H3NO2
reactant | p-toluenesulfonic acid | 5 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | isobutanol | 1500 mL | C(C(C)C)O | C4H10O
product | isobutyl cyanoacetate | 529 g, 90% | C(#N)CC(=O)OCC(C)C | C7H11NO2
